US06420557B1
(m)(i) 5-Ethyl-1-(2-methoxyethyl)-4-nitro-1H-pyrazole-3-carboxamide.
A mixture of 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (2.5 kg, 13.6 Mol), sodium carbonate (1.8 Kg, 17.0 Mol) and 2-bromoethyl methyl ether (1.98 kg, 14.2 Mol) in THF (22.5 L) and water (2.5 L) was heated under reflux and stirred for 20 hours. The mixture was cooled to ambient temperature and CH2Cl2 (67.5 L) and water (22.5 L) were added. The resultant organic and aqueous layers were separated. The aqueous phase was extracted with CH2Cl2 (22.5 L) and the combined organic solution was distilled under atmospheric pressure and replaced with ethyl acetate (33 L) to a final volume of 17 L. The cooled mixture was granulated at ambient temperature for 2 hours, filtered and washed with ethyl acetate (2.5 L). This afforded 5-ethyl-1-(2-methoxyethyl)-4-nitro-1H-pyrazole-3-carboxamide as a white crystalline solid, 2.10 kg, 57%. m.p.=140° C. Found: C, 44.46; H, 5.79; N, 23.01. C9H14N4O4 requires C, 44.63; H, 5.79; N, 23.14%.

reactant | 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | 13.6 Mol, 2.5 kg | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)N | C6H8N4O3
reactant | sodium carbonate | 17.0 Mol, 1.8 Kg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromoethyl methyl ether | 14.2 Mol, 1.98 kg | COCCBr | C3H7BrO
reactant | CH2Cl2 | 67.5 L | C(Cl)Cl | CH2Cl2
solvent | THF | 22.5 L | C1CCOC1 | C4H8O
solvent | water | 2.5 L | O | H2O
solvent | water | 22.5 L | O | H2O
product | 5-Ethyl-1-(2-methoxyethyl)-4-nitro-1H-pyrazole-3-carboxamide | C(C)C1=C(C(=NN1CCOC)C(=O)N)[N+](=O)[O-] | C9H14N4O4
